US05998433
b) Synthesis of N,N-dimethyl-[5-(4-benzyloxybenzoyl)-4,5,6,7-tetrahydrofuro[3,2-c]pyridin-2-ylmethyl]amine hydrochloride
N,N-Dimethyl-[5-(4-benzyloxybenzoyl)-4,5,6,7-tetrahydrofuro[3,2-c]pyridin-2-ylmethyl]amine 0.252 g was dissolved in 2 ml of methanol; hydrogen chloride in ethyl acetate was added in excess, followed by stirring. This mixture was concentrated, and recrystallized from ethanol-diethyl ether to yield the desired product.

reactant | N,N-Dimethyl-[5-(4-benzyloxybenzoyl)-4,5,6,7-tetrahydrofuro[3,2-c]pyridin-2-ylmethyl]amine | 0.252 g | CN(C)CC1=CC=2CN(CCC2O1)C(C1=CC=C(C=C1)OCC1=CC=CC=C1)=O | C24H26N2O3
reactant | hydrogen chloride | Cl | ClH
solvent | methanol | 2 ml | CO | CH4O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N,N-dimethyl-[5-(4-benzyloxybenzoyl)-4,5,6,7-tetrahydrofuro[3,2-c]pyridin-2-ylmethyl]amine hydrochloride | Cl.CN(C)CC1=CC=2CN(CCC2O1)C(C1=CC=C(C=C1)OCC1=CC=CC=C1)=O | InChI=1S/C24H26N2O3.ClH/c1-25(2)16-22-14-20-15-26(13-12-23(20)29-22)24(27)19-8-10-21(11-9-19)28-17-18-6-4-3-5-7-18;/h3-11,14H,12-13,15-17H2,1-2H3;1H
